US07012075B2
To a suspension of LiAlH4in ether (5 mL) was added a solution of 2-(4-bromophenyl)-N,N-dimethylacetamide (1.1 g, 4.5 mmol) in 5:1 ether/THF (12 mL), giving a small exotherm. The mixture was stirred at room temperature for 3 h, refluxed overnight then cooled to 0° C. Water (0.5 mL) was added dropwise and the mixture stirred vigourously for 3 h, then poured into 1 M NaOH and extracted with ether. The organic phase was washed with brine and dried over MgSO4. Purification by flash chromatography (4% to 8% MeOH/dichloromethane+0.5% ammonium hydroxide) provided 132 mg of 2-(4-bromophenyl)-N,N-dimethylethanamine.

reactant | ether | 5 mL | CCOCC | C4H10O
reactant | 2-(4-bromophenyl)-N,N-dimethylacetamide | 4.5 mmol, 1.1 g | BrC1=CC=C(C=C1)CC(=O)N(C)C | C10H12BrNO
reactant | ether THF | 12 mL | CCOCC.C1CCOC1
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | Water | 0.5 mL | O | H2O
product | 2-(4-bromophenyl)-N,N-dimethylethanamine | 132 mg | BrC1=CC=C(C=C1)CCN(C)C | C10H14BrN
